US08865725B2
4-Amino-1-methyl-1H-pyrimidin-2-one was prepared from cytosine and methyliodide using the methods described above for the preparation of 4-amino-1-benzyl-1H-pyrimidin-2-one.

reactant | cytosine | N1C(=O)N=C(N)C=C1 | C4H5N3O
reactant | methyliodide | CI | CH3I
reactant | 4-amino-1-benzyl-1H-pyrimidin-2-one | NC1=NC(N(C=C1)CC1=CC=CC=C1)=O | C11H11N3O
product | 4-Amino-1-methyl-1H-pyrimidin-2-one | NC1=NC(N(C=C1)C)=O | C5H7N3O
